Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Valium / Penicillins / Omeprazole Sodium / Morphine / 
Lisinopril / mango / papaya
 
Attending: ___
 
Chief Complaint:
anemia
 
Major Surgical or Invasive Procedure:
EGD on ___

 
History of Present Illness:
___ year old woman with history of HCV genotype 1a and alcoholic 
cirrhosis with history of ascites, alcohol abuse, depression, 
CAD, hypertension, and hyperlipidemia presenting with weakness, 
chest pain,and anemia presenting today from PCP due to anemia. 
Patient states she has generally feeling unwell with 
lightheadedness, nausea but no vomiting. She denies black or 
bloody stool. 

She has baseline shortness of breath, which has worsened over 
the past month.  She also endorses non-radiating chest tightness 
that occurs with movement and sometime at rest. Also endorsing 
worsening headaches which she has had since she was hit by car ___ 
years ago. 

In the ED, initial vitals were:  T: 96.3 P: 100 BP: 197/84 RR: 
20 Sp02:100% RA. She was given Reglan x 1 for nausea, given 1L 
NS, IV morphine for pain. EKG showed no indication of ischemia. 

Labs were notable for:
Initial H/H of 6.9/26.3 downtrended to 5.7/21.5 (possibly some 
dilution component, given 1L NS) - previous baseline 8.2 in 
___.
Lactate: 3.0-> 1.5 after NS 
Serum Tox: negative 
Chem 7: Notable for sodium of 132, Bicarb of 16, Cr. 0.8 (at 
baseline), anion gap 16. 

LFTs are significant for: ALT: 56 AST: 123 T Bili: 0.9 AP: 123 
Lip: 31. Alb: 3.9 
  
Liver/Gallbladder U/S showed patent portal vein, cirrhosis, and 
mild splenomegaly.
 
Past Medical History:
PAST MEDICAL AND SURGICAL HISTORY:  
Hepatitis C cirrhosis- genotype 1a decompensated with h/o
ascites; liver biopsy in ___ showed stage ___ fibrosis
Hypertension
Hyperlipidemia
COPD
Alcohol abuse
Depression
Cocaine abuse
Tobacco abuse
Atypical chest pain
Breast pain
Abdominal pain
Cervical spondylosis
L subclavian stenosis
Peripheral vascular disease
GERD s/p lap fundoplication and hiatal hernia repair ___
s/p cholecystectomy
s/p R inguinal hernia repair

 
Social History:
___
Family History:
Mom had DM, CAD (COD), and was in a wheelchair for neuropathy.
Father had alcoholism and rectal CA (COD).
Sister has mental illness, also hx of falls. 
Siblings: 1 brother neonatal death, 1 brother death at 3 months, 
1 brother sudden death in ___.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================

Vital Signs:  T: 98.2 BP: 164/60 P: 82 RR: 18 Sp02: 99% RA
GENERAL: Overweight, NAD 
HEENT: AT/NC, EOMI, anicteric sclera,OP clear. Head 
tender to palp diffusely. 
NECK: supple neck, no LAD, tender to palp bilaterally.  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
CHEST: Tender to palpation diffusely. 
LUNG: On RA, good air exchange, no increased work of breathing, 
mild crackles in lower lobes bilaterally. 
BACK: Diffusely tender to spine, paraspine
ABDOMEN: mild distended, soft, diffusely tender especially in 
the RUQ.    
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose. Warm.  
NEURO: Face symmetric. EOMI. Tremor of R>>L hand, no asterixis. 
Motor: ___ shoulder shrug b/l, ___ elbow 
flexion, ___ hand strength, slowed rapid-alternating-movements. 
Finger-to-nose minimally impaired. ___ R leg flexion, ___ L leg 
flexion, back and leg pain ipsilaterally with leg raise b/l, ___ 

ankle flexion. Decreased fine touch sensation of distal lower 
extremities b/l (from the knee down) 

DISCHARGE PHYSICAL EXAM:
========================

Vitals: T: 97.8  P: 67  BP: 138/68 R: 24  O2: 98% RA  
 General: Alert, oriented, no acute distress  
 HEENT: MMM, sublingual petechiae, head and neck diffusely 
tender to palpation.
 Lungs: CTAB, no wheezes, rales, rhonchi  
 CV: RRR, normal S1 + S2, no MRG
 Abdomen: mildly distended, active bowel sounds. Soft with mild 
diffuse tenderness, moderate tenderness to palpation in RUQ with 
no rebound or guarding.
 Ext: Warm and well perfused, 2+ pulses distally, no clubbing, 
cyanosis or edema. Varicose veins on bilateral lower 
extremities.
 Skin: ecchymoses at IV/venipuncture sites 
 Neuro: Mental status: A&Ox3. Refused attention tests; 
subjectively, evident inattentiveness. Cranial nerve exam 
notable for facial sensation grossly decreased to light touch 
across V1-V3 distributions bilaterally, no weakness of facial 
musculature noted. Sensation: Decreased fine touch sensation of 
distal lower extremities in stocking distribution to knees. 
Motor: R hand action tremor. No pronator drift or asterixis. 
Biceps ___, triceps ___ bilaterally. Foot plantarflexion ___, 
dorsiflexion ___ bilaterally. Coordination: Finger-to-nose 
impaired, partially limited also by attentiveness. Gait: 
unsteady.
 
Pertinent Results:
ADMISSION LABS:
===============

___ 01:09AM BLOOD WBC-6.3 RBC-3.35* Hgb-6.9* Hct-26.3* 
MCV-79* MCH-20.6*# MCHC-26.2*# RDW-20.6* RDWSD-55.8* Plt Ct-40*#
___ 01:09AM BLOOD Neuts-76.5* Lymphs-15.2* Monos-6.5 
Eos-0.6* Baso-0.6 Im ___ AbsNeut-4.84 AbsLymp-0.96* 
AbsMono-0.41 AbsEos-0.04 AbsBaso-0.04
___ 01:09AM BLOOD ___ PTT-34.1 ___
___ 01:09AM BLOOD Plt Smr-VERY LOW Plt Ct-40*#
___ 01:09AM BLOOD Glucose-232* UreaN-8 Creat-0.8 Na-132* 
K-4.5 Cl-100 HCO3-16* AnGap-21*
___ 01:09AM BLOOD ALT-56* AST-123* AlkPhos-164* TotBili-0.9
___ 01:09AM BLOOD Albumin-3.9 Iron-132
___ 01:09AM BLOOD ASA-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG
___ 05:00AM BLOOD Lactate-3.0*

DISCHARGE LABS:
===============

___ 04:11AM BLOOD WBC-4.7 RBC-3.06* Hgb-6.7* Hct-24.3* 
MCV-79* MCH-21.9* MCHC-27.6* RDW-19.8* RDWSD-54.7* Plt Ct-31*
___ 03:33PM BLOOD Neuts-61.6 ___ Monos-8.0 Eos-0.6* 
Baso-0.2 Im ___ AbsNeut-3.10 AbsLymp-1.48 AbsMono-0.40 
AbsEos-0.03* AbsBaso-0.01
___ 04:11AM BLOOD Plt Ct-31*
___ 04:11AM BLOOD ___
___ 04:11AM BLOOD Glucose-139* UreaN-9 Creat-0.8 Na-139 
K-3.7 Cl-106 HCO3-22 AnGap-15
___ 04:11AM BLOOD ALT-42* AST-79* AlkPhos-128* TotBili-0.8
___ 04:11AM BLOOD Calcium-8.7 Phos-3.5 Mg-2.0
___ 04:11AM BLOOD %HbA1c-5.5 eAG-111
 
Brief Hospital Course:
Ms. ___ is a ___ woman with HCV genotype 1a and 
alcoholic cirrhosis with previous complications of ascites and 
presumed GI bleed who presented for anemia in the setting of 
months of increasing dyspnea on exertion and chest tightness. 
She was transfused 2 units packed RBCs (transfused second unit 
after HgB of 6.7) and experienced improvement in symptoms after 
the first unit. EGD on ___ showed no changed from prior with 
portal hypertensive gastropathy. We continued her home 
medications for her chronic health conditions and additionally 
prescribed Nadolol 20mg daily. 

ACUTE ISSUES:

#Anemia: HgB 6.9 on admission (___) with nadir of 5.7 after 
receiving IV fluids; worsened from prior baseline in ___ of 
8.0. Increasingly symptomatic over past months with dyspnea on 
exertion and increasing chest tightness. Treated with 2 units 
packed RBCs (second unit given after HgB of 6.7) with some 
symptom improvement. EGD showed. Patient not open to discussion 
about decreasing EtOH. 

#Cirrhosis: Patient has h/o cirrhosis from HCV (genotype 1a) and 
EtOH abuse complicated by ascites. MELD on ___: 14. No ascites 
on clinical exam or bedside ultrasound. LFTs grossly unchanged 
from previous admission ___. Lasix was held while inpatient 
as there was no evidence of ascites, it was restarted on 
discharge. 

CHRONIC ISSUES:
#Abdominal Pain: Tenderness over liver. Stable per patient. 
Lipase negative. LFTs similar to baseline. 

#Generalized pain: Unclear etiology, pt endorses fibromyalgia. 
States that tramadol does not work. Patient unwilling to discuss 
lifestyle modifications. No alterations to home pain management 
regimen was continued while inpatient.
- Outpt f/u with PCP and pain clinic for pain management

#COPD: Pt has mild nonproductive cough, minimal SOB. Continued 
on home nebulizers and prn Albuterol MDI.

#HTN: Hypertensive on admission to 197/80; home meds not taken 
on ___. Max SBP since arrival to floor 140s. Continued home 
Amlodipine 5mg QD and Valsartan 320 mg QD.

#Generalized weakness: Unclear etiology, not consistent with 
radiculopathy. Most likely d/t EtOH abuse.

#Peripheral neuropathy: Pt has minimal feeling in feet, 
neuropathic pain, and pain limiting her walking.  Has walker, 
wheelchair at home but does not use them. Continued home 
gabapentin 600 mg TID

#GERD: s/p lap fundoplication and hiatal hernia repair ___. Has 
mild symptoms, states this is not currently a priority for her.

TRANSITIONAL ISSUES:
1. Anemia:
[ ] follow up with PCP ___ ___ to monitor anemia 
[ ] continue oral iron supplements daily

2. Cirrhosis:
[ ] outpatient appointment with ___ on ___
[ ] prescribed Nadolol 20mg daily

3. Alcohol consumption: 
[ ] we encouraged her to stop drinking alcohol
[ ] recommend outpatient social work follow up and support

4. Pain, neuropathy, weakness:
[ ] continued home doses of gabapentin and as needed tramadol
[ ] outpatient follow up with PCP for monitoring
[ ] follow up in pain clinic on ___. Possible Diabetes Mellitus: based on high glucose (200's) on 
chem
[x] follow up A1c - 5.5% on ___. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN wheezing 
2. Docusate Sodium 100 mg PO BID 
3. Fluticasone Propionate NASAL 1 SPRY NU BID 
4. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
5. Pantoprazole 40 mg PO Q12H 
6. Tiotropium Bromide 1 CAP IH DAILY 
7. Valsartan 320 mg PO DAILY 
8. Simvastatin 20 mg PO QPM 
9. Loratadine 10 mg PO DAILY:PRN allergies 
10. HydrOXYzine 25 mg PO BID:PRN itch 
11. Ferrous Sulfate 325 mg PO DAILY 
12. Caltrate 600 + D (calcium carbonate-vitamin D3) 600 mg 
(1,500 mg)-800 unit oral BID 
13. Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing 
14. Gabapentin 600 mg PO TID 
15. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
16. Amlodipine 5 mg PO DAILY 
17. Aspirin 81 mg PO DAILY 
18. Furosemide 20 mg PO DAILY 
19. Thiamine 100 mg PO DAILY 

 
Discharge Medications:
1. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN wheezing 
2. Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing 
3. Amlodipine 5 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Docusate Sodium 100 mg PO BID 
6. Ferrous Sulfate 325 mg PO DAILY 
7. Fluticasone Propionate NASAL 1 SPRY NU BID 
8. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
9. Gabapentin 600 mg PO TID 
10. HydrOXYzine 25 mg PO BID:PRN itch 
11. Loratadine 10 mg PO DAILY:PRN allergies 
12. Pantoprazole 40 mg PO Q12H 
13. Simvastatin 20 mg PO QPM 
14. Thiamine 100 mg PO DAILY 
15. Tiotropium Bromide 1 CAP IH DAILY 
16. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
17. Valsartan 320 mg PO DAILY 
18. Caltrate 600 + D (calcium carbonate-vitamin D3) 600 mg 
(1,500 mg)-800 unit oral BID 
19. Furosemide 20 mg PO DAILY 
20. Nadolol 20 mg PO DAILY 
RX *nadolol [Corgard] 20 mg 1 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
Microcytic anemia
Hepatitis C
Cirrhosis 

SECONDARY DIAGNOSES:
Chronic Pain
COPD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane or holding onto surfaces as she walks).

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the hospital for anemia (having less red 
blood cells in your blood). You had symptoms of shortness of 
breath when you exerted yourself along with chest tightness. You 
were treated with a blood transfusion and your symptoms 
improved. You also had an upper endoscopy which showed no change 
from previous, but showed an ulcer you have had previously. 

It is very important that you stop drinking. It is harmful to 
your liver and your health in general.  Please follow-up with 
the liver doctors, your primary care physician and the pain 
management clinic. 

It was a pleasure taking care of you, 

-Your ___ Team 
 
Followup Instructions:
___